US03956310
5.5 Parts of 7,14-diazadispiro[5.1.5.2]pentadecan-15-one, 1.76 parts of ethyl isocyanate and a trace of 1,4-diaza bicyclo[2.2.2]octane in 100 parts of dry benzene were heated at reflux for 18 hours. The solvent was evaporated in vacuo and the residue was stirred in 100 of water for 6 hours. 6.4 Parts of a solid were separated by filtration and crystallised twice from ethanol to yield 14-ethylcarbamoyl-7,14-diazadispiro[5.1.5.2]pentadecan-15-one as colourless crystals of melting point 185° to 188°C. This material gave the following elemental analysis by weight:

reactant | 7,14-diazadispiro[5.1.5.2]pentadecan-15-one | C1CCCCC12NC1(CCCCC1)NC2=O | C13H22N2O
reactant | ethyl isocyanate | C(C)N=C=O | C3H5NO
reactant | 1,4-diaza bicyclo[2.2.2]octane | N12CCN(CC1)CC2 | C6H12N2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 14-ethylcarbamoyl-7,14-diazadispiro[5.1.5.2]pentadecan-15-one | C(C)NC(=O)N1C2(NC3(CCCCC3)C1=O)CCCCC2 | C16H27N3O2
